US05223498
A mixture of 1-(6-methyl-2-piperidinophenyl)thiourea (7 g) and methyl iodide (4.38 g) in dry methanol (100 ml) was heated under reflux for 3 hours to give 2-methyl-1-(6-methyl-2-piperidinophenyl)-2-thiopseudourea hydroiodide as a pale yellow solid, (m.p. 204°-205° C.).

reactant | 1-(6-methyl-2-piperidinophenyl)thiourea | 7 g | CC1=CC=CC(=C1NC(=S)N)N1CCCCC1 | C13H19N3S
reactant | methyl iodide | 4.38 g | CI | CH3I
solvent | methanol | 100 ml | CO | CH4O
product | 2-methyl-1-(6-methyl-2-piperidinophenyl)-2-thiopseudourea hydroiodide | I.CSC(NC1=C(C=CC=C1C)N1CCCCC1)=N | InChI=1S/C14H21N3S.HI/c1-11-7-6-8-12(13(11)16-14(15)18-2)17-9-4-3-5-10-17;/h6-8H,3-5,9-10H2,1-2H3,(H2,15,16);1H
